US07622583B2
A mixture of 4-chloro-N-{2-[2-(dimethylamino-methyleneamino)-pyridine-4-carbonyl]-5-methyl-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzene sulfonamide (23 mg, mmol) in 5% H2SO4 in TFA (4 mL) and water (1 mL) was stirred at 50° C. for 2 days. The reaction mixture was cooled to room temperature, diluted with water (5 mL) and treated with saturated aqueous NaHCO3 solution slowly till pH 7-8. The mixture was extracted with EtOAc (2×25 mL), dried (anhydrous Na2SO4) and concentrated. The obtained residue was column purified (SiO2, 10% MeOH—CH2Cl2) to afford N-[2-(2-amino-pyridine-4-carbonyl)-5-methyl-pyridin-3-yl]-4-chloro-3-trifluoro methyl-benzenesulfonamide (12 mg) in 63% yield. 1H NMR (400 MHz, CDCl3) δ 10.75 (s, 1 H), 8.24 (s, 1 H), 8.18 (m, 1 H), 8.07 (dd, 1 H), 7.95 (d, 1 H), 7.75 (d, 1 H), 7.63 (d, 1 H), 7.15 (s, 1 H), 6.95 (d, 1 H), 2.25 (s, 3H); ESMS m/z (relative intensity): 471.0 (M+H)+ (100).

reactant | 4-chloro-N-{2-[2-(dimethylamino-methyleneamino)-pyridine-4-carbonyl]-5-methyl-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzene sulfonamide | 23 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)C)C(=O)C1=CC(=NC=C1)N=CN(C)C)C(F)(F)F | C24H23ClF3N5O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 5 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | N-[2-(2-amino-pyridine-4-carbonyl)-5-methyl-pyridin-3-yl]-4-chloro-3-trifluoro methyl-benzenesulfonamide | 12 mg, 63% yield | NC1=NC=CC(=C1)C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)C | C19H14ClF3N4O3S
